US04753949
Preparation of N-hydroxysuccinimide 5-bromonicotinate reactive ester
1.77 g of N,N-dicyclohexylcarbodiimide are added to 1 g of N-hydroxysuccinimide and 5.2 g of 5-bromonicotinic acid dissolved in 100 ml of abs. ethyl acetate at 50° C. The reaction mixture is stirred at room temperature for 4 hours, then cooled to 5° C. and the precipitated white crystals are filtered off. The filtrate is evaporated under reduced pressure and the residue is recrystallized from ethanol.

reactant | N-hydroxysuccinimide | 1 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 5-bromonicotinic acid | 5.2 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-hydroxysuccinimide 5-bromonicotinate | BrC=1C=NC=C(C(=O)O)C1.ON1C(CCC1=O)=O | InChI=1S/C6H4BrNO2.C4H5NO3/c7-5-1-4(6(9)10)2-8-3-5;6-3-1-2-4(7)5(3)8/h1-3H,(H,9,10);8H,1-2H2
